US06093732
N-[(4-Chlorophenyl)methyl]-4-hydroxy-7-(1-pyrrolyl)-3-quinolinecarboxamide
A mixture of 100 mg of 7-amino-N-[(4-chlorophenyl)methyl]-4-hydroxy-3-quinolinecarboxamide and 0.043 mL 2,5-dimethoxytetrahydrofuran in 1 mL of acetic acid is refluxed for four hours. (The mixture rapidly turned very dark.) It is cooled to 25° C. and the precipitate is collected by filtration. It is washed with three 1 mL portions of acetic acid and dried in a stream of air. After drying at 75° C. the product is obtained as 20 mg of a brown powder.

reactant | 7-amino-N-[(4-chlorophenyl)methyl]-4-hydroxy-3-quinolinecarboxamide | 100 mg | NC1=CC=C2C(=C(C=NC2=C1)C(=O)NCC1=CC=C(C=C1)Cl)O | C17H14ClN3O2
reactant | 2,5-dimethoxytetrahydrofuran | 0.043 mL | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | N-[(4-Chlorophenyl)methyl]-4-hydroxy-7-(1-pyrrolyl)-3-quinolinecarboxamide | 20 mg | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=CC(=CC=C2C1O)N1C=CC=C1 | C21H16ClN3O2
